US05534515
Ea. 1-Benzyl-2-methyl-4,5,6,7-tetrahydropyrrolo[2,3-d]pyridazine-4,7-dione
A solution of 175.3 g (0.56 mol) of diethyl 1-benzyl-5-methylpyrrole-2,3-dicarboxylate and 540 ml (11.1 mol) of hydrazine hydrate in 880 ml of diglyme is heated to 110° C. After 2 h, a further 270 ml (5.5 mol) of hydrazine hydrate are added dropwise in the course of 90 min. The mixture is subsequently stirred at 110° C. for a further 16 h. After cooling and addition of 2 1 of ice-water, the mixture is adjusted to pH 5 with conc. hydrochloric acid. The precipitate is filtered with suction and washed with 5 1 of water. After drying over potassium hydroxide in a high vacuum and precipitating from diisopropyl ether/ethyl acetate, 127.3 g (89%) of the title compound are isolated. M.p.: 322°-324° C.

reactant | diethyl 1-benzyl-5-methylpyrrole-2,3-dicarboxylate | 0.56 mol, 175.3 g | C(C1=CC=CC=C1)N1C(=C(C=C1C)C(=O)OCC)C(=O)OCC | C18H21NO4
reactant | hydrazine hydrate | 11.1 mol, 540 ml | O.NN
reactant | hydrazine hydrate | 5.5 mol, 270 ml | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | diglyme | 880 ml | COCCOCCOC | C6H14O3
product | 1-Benzyl-2-methyl-4,5,6,7-tetrahydropyrrolo[2,3-d]pyridazine-4,7-dione | C(C1=CC=CC=C1)N1C(=CC2=C1C(NNC2=O)=O)C | C14H13N3O2
